US05304560
A mixture of 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoic acid (1.53 g), N,N'-disuccinimidoyl carbonate (924 mg) and pyridine (285 mg) in dry acetonitrile (20 ml) was stirred for 3 hours at room temperature. Then, to the mixture was added 28% ammonium hydroxide (1.4 ml) on an ice-bath. After 1 hour, the reaction mixture was diluted with water, and extracted with chloroform. The extract was washed with brine, dried over magnesium sulfate, and evaporated. The residue was chromatographed on silica gel (30 g). Elution with a mixed solvent of chloroform and methanol (50:1 V/V) gave 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzamide (600 mg) as caramel.

reactant | 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzoic acid | 1.53 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C25H29N3O6
reactant | pyridine | 285 mg | N1=CC=CC=C1 | C5H5N
reactant | ammonium hydroxide | 1.4 ml | [OH-].[NH4+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 2-[N-{4-(4-phenyl-1,2,3,6-tetrahydropyridin-1-yl)butyl}-N-ethoxycarbonylamino]-4-nitrobenzamide | 600 mg | C1(=CC=CC=C1)C=1CCN(CC1)CCCCN(C(=O)OCC)C1=C(C(=O)N)C=CC(=C1)[N+](=O)[O-] | C25H30N4O5
